US08003692B2
3-(1H-Indol-5-yl)-cyclohex-2-enone.
Synthesized from 3-bromocyclohex-2-enone and indole-5-boronic acid pinacol ester according to the general procedure described for the Suzuki coupling. Purification by automated flash chromatography using gradient elution yielded the product (151 mg, 83%) as a pale yellow solid. 1H NMR (300 MHz, CDCl3): δ 8.68 (bs, 1H), 7.86 (d, J=0.3 Hz, 1H), 7.37-7.44 (m, 2H), 7.25 (dd, J=3.3, 2.5 Hz, 1H), 6.59 (t, J=2.5 Hz, 1H), 6.51 (t, J=1.1 Hz, 1H), 2.88 (td, J=6.3, 1.4 Hz, 2H), 2.51 (t, J=6.3 Hz, 2H), 2.18 (quintet, J=6.0 Hz, 2H). 13C (75 MHz, CDCl3): 200.1, 161.5, 136.7, 130.1, 127.9, 125.4, 123.7, 120.2, 119.1, 111.3, 103.3, 37.3, 28.5, 23.0. HRMS (LCT Electrospray): mass calcd for (C14H13NO+Na) m/z 234.0895; measured [M+Na]+: m/z 234.0897.

reactant | 3-bromocyclohex-2-enone | BrC1=CC(CCC1)=O | C6H7BrO
reactant | indole-5-boronic acid pinacol ester | N1C=CC2=CC(=CC=C12)B1OC(C)(C)C(C)(C)O1 | C14H18BNO2
product | 3-(1H-Indol-5-yl)-cyclohex-2-enone | 151 mg, 83% | N1C=CC2=CC(=CC=C12)C1=CC(CCC1)=O | C14H13NO
